US08389769B2
30 g (0.15 mol) 2-hydroxy-3-methacryloyloxypropyl acrylate, 1.83 g (15 mmol) 4-dimethylamino-pyridine and 1.5 g BHT were dissolved in 200 mL acetone. 20.9 mL (0.15 mol) triethyl amine was added at room temperature. 34.6 g (0.23 mol) methacrylic anhydride was added drop wise over 30 minutes and the reaction was allowed to continue at room temperature for one hour. The solvent was removed under reduced pressure and 2,3-di-methacryloyloxypropyl acrylate was purified by preparative column chromatography on Prochrom LC 80 column, using Kromasil Si 60A 10 mm as silica and a gradient elution from methylene chloride to methylene chloride/methanol 95/5 at a flow rate of 150 mL per minute. 21.3 g (50%) of 2,3-di-methacryloyloxypropyl acrylate was isolated.

reactant | 2-hydroxy-3-methacryloyloxypropyl acrylate | 0.15 mol, 30 g | C(C=C)(=O)OCC(COC(C(=C)C)=O)O | C10H14O5
reactant | triethyl amine | 0.15 mol, 20.9 mL | C(C)N(CC)CC | C6H15N
reactant | methacrylic anhydride | 0.23 mol, 34.6 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
catalyst | 4-dimethylamino-pyridine | 15 mmol, 1.83 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 2,3-di-methacryloyloxypropyl acrylate | 21.3 g, 50% | C(C=C)(=O)OCC(COC(C(=C)C)=O)OC(C(=C)C)=O | C14H18O6
